US06590118B1
A mixture of 4-nitrophthalonitrile (0.6 g, 5.78 mmol), 2-aminophenol (1 g, 5.78 mmol) and potassium carbonate (1.6 g, 11.6 mmol) in DMF (25 ml) was stirred at room temperature for 2 hours. The mixture was then poured into water. The precipitate was filtered off, washed with water and dried to give yellow crystals of 4-(2-aminophenoxy)phthalonitrile (yield: 1.32 g (97%)). Mp: 118-118.2° C.

reactant | 4-nitrophthalonitrile | 5.78 mmol, 0.6 g | [N+](=O)([O-])C=1C=C(C(C#N)=CC1)C#N | C8H3N3O2
reactant | 2-aminophenol | 5.78 mmol, 1 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | potassium carbonate | 11.6 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 4-(2-aminophenoxy)phthalonitrile | yield: 1.32 g, 97% | NC1=C(OC=2C=C(C(C#N)=CC2)C#N)C=CC=C1 | C14H9N3O
